US08222245B2
1,1-Dimethylethyl 9-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of 1,1-dimethylethyl 9-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (Preparation 65) (32.9 g, 107 mmol) and triethylamine (17.9 ml, 128 mmol) in dry N,N-dimethylformamide (DMF) (200 ml) was cooled in ice/water under nitrogen. A solution of 3-chloro-4-[(1-methylethyl)oxy]benzoyl chloride (Preparation 102) (28.7 g, 123 mmol) in DMF (100 ml) was added over ca 20 minutes. When the addition was complete the mixture was allowed to warm to room temperature and stirred for 1 hour at room temperature, then at 120° C. for 3 hours. The mixture was allowed to cool and was poured into water (1 liter). The resulting solid was extracted into ethyl acetate (3×300 ml) and the extracts combined, washed with 1M hydrochloric acid (2×250 ml), then 1M sodium carbonate solution (3×250 ml), brine (250 ml), dried (sodium sulphate) and evaporated. The residue was purified by chromatography on silica. Eluting with a 10-40% gradient of ethyl acetate in isohexane to give the title compound as a crystalline solid (42.7 g) MS (ES): C25H2835ClN3O5 requires 485; found 486 [M+H]+.

reactant | 1,1-dimethylethyl 9-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 107 mmol, 32.9 g | ONC(C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)=N | C15H21N3O4
reactant | triethylamine | 128 mmol, 17.9 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-4-[(1-methylethyl)oxy]benzoyl chloride | 123 mmol, 28.7 g | ClC=1C=C(C(=O)Cl)C=CC1OC(C)C | C10H10Cl2O2
reactant | water | 1 liter | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | DMF | 100 ml | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl 9-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 42.7 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C25H28ClN3O5
